US06300352B1
3a) 3-Bromo-N-(2-pyrrolidin-1-yl-ethyl)benzenesulfonamide hydrochloride
N-(2-Aminoethyl)pyrrolidine (1.61 g) was added dropwise to a solution of 3-bromobenzenesulfonyl chloride (3.61 g) in diethyl ether (100 ml) at room temperature. The resulting suspension was stirred for 30 minutes and filtered to afford the sub-title compound as a solid (4.48 g).

reactant | N-(2-Aminoethyl)pyrrolidine | 1.61 g | NCCN1CCCC1 | C6H14N2
reactant | 3-bromobenzenesulfonyl chloride | 3.61 g | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 3-Bromo-N-(2-pyrrolidin-1-yl-ethyl)benzenesulfonamide hydrochloride | 4.48 g | Cl.BrC=1C=C(C=CC1)S(=O)(=O)NCCN1CCCC1 | InChI=1S/C12H17BrN2O2S.ClH/c13-11-4-3-5-12(10-11)18(16,17)14-6-9-15-7-1-2-8-15;/h3-5,10,14H,1-2,6-9H2;1H
